US04933350
A solution of diisobutyl aluminium hydride in toluene (1.5M; 16.8 ml) was added dropwise to a stirred solution of ethyl (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]isoquinolin-2-yl)propenoate (2.4 g) in dry tetrahydrofuran (50 ml) at 0° C. under an atmosphere of argon. The mixture was stirred at 0° C. for 30 minutes and then the reaction mixture was quenched by the dropwise addition of saturated aqueous sodium sulphate solution (50 ml) at 0° C. The resulting gel was then allowed to warm to 20° C. and it was then treated with sufficient aqueous hydrochloric acid (2N) to dissolve the gel. The organic phase was separated and the aqueous phase was extracted with diethyl ether (50 ml). The organic solutions were combined, washed with brine, dried over magnesium sulphate and evaporated, to give (E)-3-(3-isopropyl1-phenylpyrrolo[2,1-a]isoquinolin-2-yl)propen-1-ol in the form of an orange oil (2.14 g).

reactant | diisobutyl aluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl (E)-3-(3-isopropyl-1-phenylpyrrolo[2,1-a]isoquinolin-2-yl)propenoate | 2.4 g | C(C)(C)C1=C(C(=C2N1C=CC1=CC=CC=C21)C2=CC=CC=C2)/C=C/C(=O)OCC | C26H25NO2
solvent | toluene | 1.5M, 16.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (E)-3-(3-isopropyl1-phenylpyrrolo[2,1-a]isoquinolin-2-yl)propen-1-ol | C(C)(C)C1=C(C(=C2N1C=CC1=CC=CC=C21)C2=CC=CC=C2)C/C=C/O | C24H23NO
